US04590189
6-(5-Chloro-2-pyridyl)-6,7-dihydro-7-hydroxy-5H-pyrrolo[3,4-b]pyrazin-5-one (1.05 g) and ethoxycarbonylmethylenephosphorane (1.39 g) were dissolved in dry toluene (30 ml) and the solution was refluxed for 6 hours. After cooling, the solvent was distilled off and the residue was purified by silica gel column chromatography. Fractions eluted with dichloromethaneethyl acetate (2:1) were collected and the solvent was distilled off to give crude crystals. Recrystallization from ether-dichloromethane (5:1) gave 1.2 g of 6(5-chloro pyridyl)-6,7-dihydro-7-ethoxycarbonylmethyl-5H-pyrrolo[3,4-b]pyrazin-5-one

reactant | 6-(5-Chloro-2-pyridyl)-6,7-dihydro-7-hydroxy-5H-pyrrolo[3,4-b]pyrazin-5-one | 1.05 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1=O)O | C11H7ClN4O2
reactant | ethoxycarbonylmethylenephosphorane | 1.39 g | C(C)OC(=O)C=[PH3] | C4H9O2P
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 6(5-chloro pyridyl)-6,7-dihydro-7-ethoxycarbonylmethyl-5H-pyrrolo[3,4-b]pyrazin-5-one | 1.2 g | ClC=1C=CC(=NC1)N1C(C2=NC=CN=C2C1=O)CC(=O)OCC | C15H13ClN4O3
